US07652049B2
To a solution of benzyl[2-azido-2-(4-chlorophenyl)ethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate (30 mg, 0.05 mmol) in THF (1 mL) was added PtO2 (8 mg) and the reaction was stirred at room temperature under hydrogen for 1 hour. The catalyst was removed by filtration through a plug of Celite with 100% EtOAc and the filtrate was concentrated to afford crude benzyl[2-amino-2-(4-chlorophenyl)ethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.66 (25% EtOAc/hexanes). LCMS=611.3 (M+1)+.

reactant | benzyl[2-azido-2-(4-chlorophenyl)ethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | 0.05 mmol, 30 mg | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(C1=CC=C(C=C1)Cl)N=[N+]=[N-])=O | C34H32ClF3N4O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | PtO2 | 8 mg | O=[Pt]=O
product | benzyl[2-amino-2-(4-chlorophenyl)ethyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(C1=CC=C(C=C1)Cl)N)=O | C34H34ClF3N2O3
